* SEN_COND (субсхема из нетлиста KiCad)
.subckt SEN_COND COND_ADC COND_RAW GND
  C27 COND_ADC GND 100n
  R29 COND_RAW COND_ADC 10k
  R30 COND_ADC GND 20k
.ends SEN_COND
